US08071609B2
C) (E)-N-(4-Methyl-3-(2-(6-(methylamino)-9H-purin-9-yl)vinyl)phenyl)-3-(trifluoromethyl)benzamide
A pressure tube was charged with N-methyl-9-vinyl-9H-purin-6-amine (0.088 g, 0.5 mmol), N-(3-iodo-4-methylphenyl)-3-(trifluoromethyl)benzamide (0.20 g, 0.5 mmol), palladium acetate (0.05 eq), tri-(o-tolyl)phosphine (0.1 eq), and DMF (2 ml). The resulting solution was degassed by bubbling N2 for 10 minutes. N,N-Diisopropylethylamine (0.19 g, 1.5 mmol) was added and this solution was stirred at 110° C. for 15 h. Water was added and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated on a rotavap, and then subjected to silica gel column chromatography (5% methanol/methylene chloride) yielding the desired product: MS [M+H]+ 453; m.p. 201° C.

reactant | N-methyl-9-vinyl-9H-purin-6-amine | 0.5 mmol, 0.088 g | CNC1=C2N=CN(C2=NC=N1)C=C | C8H9N5
reactant | N-(3-iodo-4-methylphenyl)-3-(trifluoromethyl)benzamide | 0.5 mmol, 0.20 g | IC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H11F3INO
reactant | tri-(o-tolyl)phosphine | 0.1 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-Diisopropylethylamine | 1.5 mmol, 0.19 g | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | palladium acetate | 0.05 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (E)-N-(4-Methyl-3-(2-(6-(methylamino)-9H-purin-9-yl)vinyl)phenyl)-3-(trifluoromethyl)benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)\C=C\N1C2=NC=NC(=C2N=C1)NC | C23H19F3N6O
